US05990355
Preparation of 4-(2-hydroxyethylamino)-2-aminophenol
Preparation of 4-[bis(2-hydroxyethyl)-amino]-2-nitrophenol by ethoxylation (B5.c): 397 g (2 mol) 4-(2-hydroxyethylamino)-2-nitrophenol is added to a mixture of 1.6 liters of water and 1.1 liters of 1,2-dimethoxyethane. The system is closed with a bubble counter and heated with stirring to 60° C. Ethylene oxide is conducted into this solution so that no ethylene oxide escapes through the bubble counter. After 5 hours the temperature is increased to 85° C., 9.2 g activated charcoal and 4.6 g Celite are added, and stirring is continued for 15 minutes. Then the mixture is filtered with suction. The residue is washed with 100 ml of 1,2-dimethoxyethane/water (1:1 v/v). 500 ml of 1,2-dimethoxyethane is distilled off the solution. The product which precipitates is filtered off with suction and dried. (This product is obtained starting from 4-amino-2-nitrophenol according to this procedure.)

reactant | 4-[bis(2-hydroxyethyl)-amino]-2-nitrophenol | OCCN(C1=CC(=C(C=C1)O)[N+](=O)[O-])CCO | C10H14N2O5
reactant | 4-(2-hydroxyethylamino)-2-nitrophenol | 2 mol, 397 g | OCCNC1=CC(=C(C=C1)O)[N+](=O)[O-] | C8H10N2O4
reactant | Ethylene oxide | C1CO1 | C2H4O
reactant | charcoal | C | CH4
reactant | 4-amino-2-nitrophenol | NC1=CC(=C(C=C1)O)[N+](=O)[O-] | C6H6N2O3
solvent | 1,2-dimethoxyethane | 1.1 liters | COCCOC | C4H10O2
solvent | water | 1.6 liters | O | H2O
product | 4-(2-hydroxyethylamino)-2-aminophenol | OCCNC1=CC(=C(C=C1)O)N | C8H12N2O2
